US04547501
Monomethylamine gas was bubbled through a solution of 4-chloro-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline (1.2 g., 0.005 mole), the product of Example 4, in N,N-dimethylformamide (50 ml.) at 0° C. for 2 minutes. The reaction mixture was stirred at 0° C. for 30 minutes, at room temperature for 2 hours, and then poured over ice and stirred another 20 minutes. The precipitate which formed was separated by filtration, washed with water and air dried. Recrystallization from ethanol then afforded 1.0 g. (88% yield) of 4-methylamino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 271°-273° C. Mass spectrum: m/e, 227 (P).

reactant | Monomethylamine | CN | CH5N
reactant | 4-chloro-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline | 0.005 mole, 1.2 g | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CC | C11H9ClN4
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-methylamino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline | 88% yield | CNC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CC | C12H13N5
